US08703768B2
Step 4: 4-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester
To a stirred solution of A-2 (600 mg, 2.34 mmol) in DMF (10 ml) was added EDCI (672 mg, 3.51 mmol) and HOBt (538 mg, 3.51 mmol) at 25° C. Stirring was continued for 10 min. 4-Amino-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester (362 mg, 2.35 mmol) and triethylamine (0.8 ml, 5.35 mmol) were subsequently added to the above solution. The reaction mixture was stirred at 25° C. overnight, then quenched with water (8 ml), and extracted with CH2Cl2. The combined organic layers were washed with brine, dried (Na2SO4), filtered, and evaporated. The crude product thus obtained was purified by column chromatography over silica gel (2% MeOH/CH2Cl2) to provide the title compound (642 mg, 69%) as yellow sticky solid.

reactant | EDCI | 3.51 mmol, 672 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 3.51 mmol, 538 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-Amino-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | 2.35 mmol, 362 mg | COC(=O)C1=NN(C=C1N)C | C6H9N3O2
reactant | triethylamine | 5.35 mmol, 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carbonyl]-amino}-1-methyl-1H-pyrazole-3-carboxylic acid methyl ester | 642 mg, 69% | COC(=O)C1=NN(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C | C19H19N7O3
